US06710056B2
2-Isopropoxybenzoic acid:
5.00 g (36.2 mmol) of potassium carbonate and 3.27 g (26.6 mmol) of isopropyl bromide were added to a mixture of 2.00 g (13.2 mmol) of methyl salicylate and 10 ml of dimethylformamide, and they were stirred at room temperature overnight and then at 70° C. for 4 hours. 12.0 ml (36 mmol) of 3 M aqueous sodium hydroxide solution and 6.0 ml of ethanol were added to the reaction mixture, and they were stirred at 80° C. for 6 hours and then concentrated under reduced pressure. Water was added thereto. After washing with ethyl acetate, the aqueous layer was neutralized with hydrochloric acid. After the extraction with ethyl acetate, the extract was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain the title compound.

reactant | potassium carbonate | 36.2 mmol, 5.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl bromide | 26.6 mmol, 3.27 g | C(C)(C)Br | C3H7Br
reactant | methyl salicylate | 13.2 mmol, 2.00 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | sodium hydroxide | 36 mmol, 3 M, 12.0 ml | [OH-].[Na+]
solvent | ethanol | 6.0 ml | C(C)O | C2H6O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Isopropoxybenzoic acid | C(C)(C)OC1=C(C(=O)O)C=CC=C1 | C10H12O3
